US09399016B2
b) 7-(5-Bromopentyl)-3,6,8,11-tetraoxatridecane-1,13-diol (JBW407)
The above procedure was carried out using the following quantities: 1-bromohexan-6-ol (1.76 g, 10.3 mmol), NMO (1.33 g, 11.3 mmol), molecular sieves (3.0 g), dichloromethane (40 mL), TPAP (0.37 g, 1.03 mmol); diethylene glycol (4.63 mL, 51.5 mmol), p-toluenesulfonic acid monohydrate (0.59 g, 3.90 mmol), molecular sieves (4.0 g) and dichloromethane (50 mL). Purification by flash chromatography on silica (gradient; dichloromethane to 5% methanol in dichlorometane) afforded the titled compound as a pale yellow oil (0.45 g, 12%).

reactant | 1-bromohexan-6-ol | 10.3 mmol, 1.76 g | BrCCCCCCO | C6H13BrO
reactant | NMO | 11.3 mmol, 1.33 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | diethylene glycol | 51.5 mmol, 4.63 mL | C(COCCO)O | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 3.90 mmol, 0.59 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | TPAP | 1.03 mmol, 0.37 g | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 7-(5-Bromopentyl)-3,6,8,11-tetraoxatridecane-1,13-diol | 0.45 g, 12% | BrCCCCCC(OCCOCCO)OCCOCCO | C14H29BrO6
